US09212348B2
Synthesis of 1-benzylcyclopropanamine
4.5 g (38 mmol) of phenylacetonitrile was dissolved in 50 mL of tetrahydrofuran, mixed with 12.4 mL (41.9 mmol) of tetraisopropyl propylorthotitanate and 78 mL (76 mmol) of 0.98M ethylmagnesium bromide in tetrahydrofuran and stirred at room temperature for 1 hour. After the stirring, 9.6 mL (78 mmol) of boron trifluoride ethyl etherate complex was added, and the reaction solution was stirred at room temperature for another 1 hour. After completion of the reaction, 2 M aqueous sodium hydroxide was added, and the reaction solution was extracted with diethyl ether. After addition of 3 M hydrochloric acid, the organic layer was separated. The resulting aqueous layer was basified with 5 M aqueous sodium hydroxide and extracted with methylene chloride.

reactant | phenylacetonitrile | 38 mmol, 4.5 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | ethylmagnesium bromide | 76 mmol, 0.98M, 78 mL | C(C)[Mg]Br
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-benzylcyclopropanamine | C(C1=CC=CC=C1)C1(CC1)N | C10H13N
